US03932465
A mixture of 5 g of 3-acetoxymethyl-7(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid and 10 ml of absolute anisole is dissolved in 40 ml of trifluoracetic acid and the clear solution is evaporated to dryness under a water pump vacuum and with repeated addition of toluene. The residue is dissolved in acetone, and the solution is mixed with about 30 g of silica gel and evaporated to dryness. The residue is suspended in methylene chloride and the suspension is applied to a column (diameter: 35 mm) of 150 g of silica gel. Elution is carried out with methylene chloride and mixtures of methylene chloride and acetic acid ethyl ester (fractions of 400 ml). Unreacted anisole is eluted with 2 fractions of pure methylene chloride. 3-(4-Methoxybenzyl)-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid mixed with 3-(2-methoxy-benzyl)-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid, is obtained by elution with 6:1 to 1:1 mixtures of methylene chloride and acetic acid ethyl ester. Additional, impure material is obtained with acetic acid ethyl ester and with acetic acid ethyl ester containing 5% of methanol. The pure product is crystallised from a mixture of acetic acid ethyl ester and cyclohexane and melts at 181.5°-182°C (uncorrected); [α]D20 = +379° ± 1° (c = 0.989 in dioxane); thin layer chromatogram (silica gel G): Rf = 0.61 (system n-butanol/acetic acid/water, 75:7.5:21), Rf = 0.72 (system acetic acid ethyl ester/pyridine/acetic acid/water, 62:21:6:11) and Rf = 0.63 (system n-butanol/pyridine/acetic acid/water, 38:24:8:30); ultraviolet absorption spectrum (in 95% strength ethanol), λmax = 224 mμ(ε = 19200), and shoulder at about 255 mμ (ε = 7200) and at about 279 mμ (ε = 3000); infrared absorption spectrum (in mineral oil): characteristic bands at 3.02μ, 3.19μ (shoulder), 3.30μ, 5.67μ, 5.77μ, 6.05μ, 6.23μ, 6.54μ, 6.61μ, 6.69μ, 7.07μ, 7.49μ, 7.99μ, 8.24μ, 8.52μ, 9.71μ, 13.31μ, 14.41μ and 15.05μ. Further recrystallisation from a mixture of acetone, methylene chloride and cyclohexane results in enrichment of 3-(4-methoxy-benzyl)-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid, with the melting point rising to 188°C.

reactant | 3-acetoxymethyl-7(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid | 5 g | C(C)(=O)OCC1=CS[C@H]2N(C1C(=O)O)C(C2NC(CC2=CC=CC=C2)=O)=O | C18H18N2O6S
reactant | anisole | 10 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | acetic acid ethyl ester | C(C)OC(C)=O | C4H8O2
reactant | methanol | CO | CH4O
solvent | trifluoracetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(4-methoxy-benzyl)-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid | COC1=CC=C(CC2=CS[C@H]3N(C2C(=O)O)C(C3NC(CC3=CC=CC=C3)=O)=O)C=C1 | C23H22N2O5S
